dual clipper
VIN 1 0 SIN(0 5 1khz)
R 1 2 11.9k
V1 3 0 dc 2.3v
V2 0 4 dc 2.3v
.MODEL DIODE D
D1 2 3 DIODE
D2 4 2 DIODE
.CONTROL
set color0=white
TRAN 0.01ms 10ms
*voltage waveform
PLOT V(2)
PLOT V(1)
.ENDC
.END

