
common base bjt
vsupply 1 0 dc 24
rc 2 1 800
re 3 4 100
vin 0 4 dc
q1 2 0 3 mod1
.model mod1 npn bf=50 
.dc vin 0 5  0.1 
.print dc v(2,3)
.plot dc v(2,3)
.end


