voltage tripler

V1 n1 0 SIN(0 5 0.5)
C1 n2 n1 20nF
C2 n4 0 20nF
C3 n2 n3 20nF
.model diode D
D1 n2 0 diode
D2 n4 n2 diode
D3 n3 n4 diode
.CONTROL
tran 0.1m 10
set color0 = white
set xbrushwidth = 2
plot V(n1) V(n1)-V(n3)
.endc
.end

