.title collector feedback bias for bjt - highly stable low sensitivity to beta
rc 1 2 4.7k
rf 2 3 250k
q1 2 3 4 mod1
.model mod1 npn 
re 4 0 1.2k
vcc 1 0 dc 10
vrc 1 2 dc 0
vrf 2 3 dc 0
.dc vcc 0 10 2
.print dc v(2,4) i(vrc) i(vrf)
.end
 
