.title emitter follower biasing bjt 
rb 1 4 240k
re 2 3 2k
vrb 4 0 dc 0
vre 3 5 dc 0
vee 0 5 dc 20
q1 0 1 2 mod1 
.model mod1 npn
.dc vee 0 20 4 
.print dc v(0,2) i(vrb) i(vre) 
.end

