.title non-inverting comparator using op amp
.include LF356.MOD
XU1 3 2 7 4 6 LF356/NS
vin- 2 0 0
vin+ 3 0 sin(0 2 220) 
vs+ 7 0 5
vs- 4 0 -5
.control
tran 1m 10m 
plot tran v(6) v(3)
.endc
.end



